US07268230B2
Imidazolidine-2,4-dione (1.0 g, 9.99 mmol), 3-benzyloxypropan-1-ol (1.9 ml, 12.0 mmol) and triphenylphosphine (3.1 g, 12.0 mmol) were stirred in methylene chloride (20 ml) and cooled to 0° C. Diisopropyl azodicarboxylate (2.36 μl, 12.0 mmol) in dichloromethane (5 ml) was slowly added and the mixture stirred at ambient temperature overnight. The mixture was washed with water, dried (MgSO4) and concentrated under reduced pressure. The residue was purified by column chromatography eluting with methylene chloride/methanol (98/2) to give 3-(3-benzyloxypropyl)imidazolidine-2,4-dione (1.3 g, 53%, containing 7% w/w triphenylphosphine oxide) as a pale yellow solid.

reactant | Imidazolidine-2,4-dione | 9.99 mmol, 1.0 g | N1C(NC(C1)=O)=O | C3H4N2O2
reactant | 3-benzyloxypropan-1-ol | 12.0 mmol, 1.9 ml | C(C1=CC=CC=C1)OCCCO | C10H14O2
reactant | triphenylphosphine | 12.0 mmol, 3.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 12.0 mmol, 2.36 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-(3-benzyloxypropyl)imidazolidine-2,4-dione | 1.3 g, 53% | C(C1=CC=CC=C1)OCCCN1C(NCC1=O)=O | C13H16N2O3
